US09388199B2
A. (3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid tert-butyl ester
To a solution of 1-(1H-pyrazolo[3,4-c]pyridin-3-yl)-ethanone (Sphinx Scientific laboratory LLC, catalog number: PPY-1-CS01) (2.45 g 14.44 mmol) in CH3CN (50 mL) were added potassium carbonate (3.99 g, 28.9 mmol) and tert-butyl bromoacetate (2.34 mL, 15.88 mmol). The reaction mixture was stirred at RT overnight. The crude mixture was poured into water and extracted with EtOAc (×3). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:0 to 0:1) to give the title compound. TLC, Rf (EtOAc)=0.7; MS: 276 [M+H]+; tR (HPLC conditions c): 2.06 min.

reactant | 1-(1H-pyrazolo[3,4-c]pyridin-3-yl)-ethanone | 14.44 mmol, 2.45 g | N1N=C(C=2C1=CN=CC2)C(C)=O | C8H7N3O
reactant | potassium carbonate | 28.9 mmol, 3.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 15.88 mmol, 2.34 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2C1=CN=CC2)C(C)=O)=O | C14H17N3O3
